US05223619
9-Benzylguanine
1-Benzyl-5-(thiocarbamoyl)amino-1H-imidazole-4-carboxamide (2.75 g, 10.0 mM) and sodium tungstate (0.1 g) were suspended in 6N sodium hydroxide (20 ml) at 5° C. 35% hydrogen peroxide (4.0 ml, 44 mM) was added dropwise at 5°-15° C. over 30 minutes. Water (60 ml) was added to the resulting reaction mixture. After stirring for 1 hour in an ice bath pH was adjusted to 5 with hydrochloric acid. The formed product was filtered off, washed with water and dried. Hereby was isolated 1.30 g (54%) of the title compound as a white powder. HPLC indicated about 98% purity. The product had the same physical data as the product of example 4.

reactant | 1-Benzyl-5-(thiocarbamoyl)amino-1H-imidazole-4-carboxamide | 10.0 mM, 2.75 g | C(C1=CC=CC=C1)N1C=NC(=C1NC(N)=S)C(=O)N | C12H13N5OS
reactant | hydrogen peroxide | 44 mM, 4.0 ml | OO | H2O2
reactant | Water | 60 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | sodium hydroxide | 6N, 20 ml | [OH-].[Na+]
catalyst | sodium tungstate | 0.1 g | [O-][W](=O)(=O)[O-].[Na+].[Na+]
product | 9-Benzylguanine | 1.30 g, 54% | C(C1=CC=CC=C1)N1C=2N=C(NC(C2N=C1)=O)N | C12H11N5O
